US08183264B2
(4-(Pyridin-2-ylmethoxy)-phenyl)-methanol
To a solution of THF (50 mL) of 4-(pyridin-2-ylmethoxy)-benzoic acid methyl ester (4.9 g) described in Manufacturing Example 25-1 was added LAH (1.0 g) at 0° C., which was stirred for 20 minutes at room temperature. Water was added to the reaction solution, which was extracted with ethyl acetate. The organic layer was concentrated and purified by silica gel chromatography (heptane:ethyl acetate=1:1, then ethyl acetate) to obtain the titled compound (1.6 g).

reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | 4-(pyridin-2-ylmethoxy)-benzoic acid methyl ester | 4.9 g | COC(C1=CC=C(C=C1)OCC1=NC=CC=C1)=O | C14H13NO3
reactant | LAH | 1.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Water | O | H2O
product | (4-(Pyridin-2-ylmethoxy)-phenyl)-methanol | 1.6 g | N1=C(C=CC=C1)COC1=CC=C(C=C1)CO | C13H13NO2
